US06642229B2
7-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-imidazo[1,2-a]pyrimidine (0.2 g, 0.6 mmol) was coupled to 2-bromo-5-fluorobenzonitrile (179 mg, 0.9 mmol) as described in Example 26 to give 4-fluoro-3′-(7-methylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile as a white solid (85 mg): δH (400 MHz, CDCl3) 2.67 (3H, s), 6.83 (1H, d, J 7), 7.20 (1H, dt, J 8.9 and 3), 7.50-7.70 (6H, m), 7.84 (1H, s), 8.76 (1H, d, J 7); m/z (ES+) 329 (M++H).

reactant | 7-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-imidazo[1,2-a]pyrimidine | 0.6 mmol, 0.2 g | CC1=NC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C19H22BN3O2
reactant | 2-bromo-5-fluorobenzonitrile | 0.9 mmol, 179 mg | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
product | 4-fluoro-3′-(7-methylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | 85 mg | FC=1C=C(C(=CC1)C1=CC(=CC=C1)C1=CN=C2N1C=CC(=N2)C)C#N | C20H13FN4
